data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_533399_1,[C@@:1]12([C:3]([H:15])([H:16])[H:17])[C:2]([H:12])([H:13])[C@@:6]([C:5](=[O:9])[H:11])([H:14])[C@:4]1([O:8][H:10])[O:7]2>>[C:1]1([C:3]([H:15])([H:16])[H:17])([C:5](=[O:9])[H:11])[C:2]([H:12])([H:13])[C:6]([H:14])=[C:4]([O:8][H:10])[O:7]1,27.03395499998109
MR_159650_1,[C:1]1([C:4]([H:16])([H:17])[H:18])([H:10])[C:6]([C:2]([O:7][H:9])([H:12])[H:13])([C:3]([C:5]([H:19])([H:20])[H:21])([H:14])[H:15])[N:8]1[H:11]>>[C:1]([C:3]([C:5]([H:19])([H:20])[H:21])([H:14])[H:15])([C:4]([H:16])([H:17])[H:18])(/[C:6]([C:2]([O:7][H:9])([H:12])[H:13])=[N:8]\[H:11])[H:10],69.29482499996936
MR_258048_1,[N:1]([C:2](=[C:3]([N:5]([H:12])[H:13])[N:6]([H:14])[H:15])[N:4]([H:10])[H:11])([O:7][H:8])[H:9]>>[N:1]1([H:9])[C:2]([C:3]([N:5]([H:12])[H:13])([N:6]([H:14])[H:15])[H:8])([N:4]([H:10])[H:11])[O:7]1,58.02680749998999
MR_510771_1,[C:1]([C:4]([C:2]([H:14])([H:15])[H:16])=[N:7]/[C:3]([O:6][N:5]([H:9])[H:10])=[N:8]\[H:11])([H:12])([H:13])[H:17]>>[C:1]([C:4]([C:2]([H:14])([H:15])[H:16])([O:6][N:5]([H:9])[H:10])[N:7][C:3][N:8][H:11])([H:12])([H:13])[H:17],40.32816999998119
MR_435714_1,[C:1](/[C:2]([C:4](=[O:6])[H:9])=[C:5](\[N:3]([H:7])[H:8])[H:10])([H:11])([H:12])[H:13]>>[C:1]([C:2]1([H:9])[C:4](=[O:6])[C:5]1([N:3]([H:7])[H:8])[H:10])([H:11])([H:12])[H:13],68.75015499998909
MR_183660_2,[C:1]([N:2](/[C:3](=[C:5](\[N:4]([H:9])[H:10])[H:11])[O:6][H:7])[H:8])([H:12])([H:13])[H:14]>>[C:1]([N:2](/[C:5](=[C:3](\[O:6][H:7])[H:11])[N:4]([H:9])[H:10])[H:8])([H:12])([H:13])[H:14],57.88248250003335
MR_301697_1,[C:1](=[C:3]([H:10])[H:11])([O:5][C:2](=[C:4]([H:12])[H:13])[O:7][H:9])[O:6][H:8]>>[C:1]([C:3]([C:2](=[C:4]([H:12])[H:13])[O:7][H:9])([H:10])[H:11])(=[O:5])[O:6][H:8],56.52708249999549
MR_639428_1,[N:1]([C:2]([C:3]([N:5]([H:11])[H:12])=[C:6]([H:13])[H:14])=[O:7])([N:4]([H:9])[H:10])[H:8]>>[N:1](=[C:2](/[C:3]([N:5]([H:11])[H:12])=[C:6]([H:13])[H:14])[O:7][H:10])\[N:4]([H:8])[H:9],57.87557999997944
MR_532111_0,[C@:1]1([N:7]([H:11])[H:12])([H:10])[C:2]([H:15])([H:16])[C:6]([C:3]([H:17])([H:18])[H:19])=[C:5]([N:8]([H:13])[H:14])[N:4]1[H:9]>>[C@:1]1([N:7]([H:11])[H:12])([H:10])[C:2]([H:15])([H:16])[C@:6]1([C:3]([H:17])([H:18])[H:19])/[C:5](=[N:4]/[H:9])[N:8]([H:13])[H:14],45.84201249997108
MR_297286_0,[C:1]([C:2](/[C:3](=[N:5]/[H:12])[H:14])([O:8][H:11])[H:13])([C:4]([H:16])([H:17])[H:18])([C:6](=[O:9])[H:15])[O:7][H:10]>>[C:1]1([C:4]([H:16])([H:17])[H:18])([O:7][H:10])[C:2]([O:8][H:11])([H:13])[C:3]([H:14])([H:15])[N:5]([H:12])[C:6]1=[O:9],65.03284499999339
MR_554786_1,[C:1](/[C:4](=[C:3]([C:5](\[C:2]([H:19])([H:20])[H:21])=[C:8](/[N:7]([H:13])[H:14])[H:15])/[O:9][H:10])[N:6]([H:11])[H:12])([H:16])([H:17])[H:18]>>[C:1]([C@:4]1([N:6]([H:11])[H:12])[C:3]([O:9][H:10])=[C:5]([C:2]([H:19])([H:20])[H:21])[C@:8]1([N:7]([H:13])[H:14])[H:15])([H:16])([H:17])[H:18],42.72082750000408
MR_111712_0,[C:1](=[C:2]([N:3]([H:8])[H:9])[C:5]([N:4]([H:10])[H:11])([O:6][H:7])[H:14])([H:12])[H:13]>>[C:1](/[C:2]([N:3]([H:8])[H:9])=[C:5](/[N:4]([H:10])[H:11])[H:14])([O:6][H:7])([H:12])[H:13],55.37499250001503
MR_97325_2,[C:1]([O:4][C:2](=[C:3]([H:8])[H:9])[H:7])(=[O:5])[H:6]>>[C:1]([C:2](=[C:3]([H:8])[H:9])[O:4][H:7])(=[O:5])[H:6],71.81800250001942
MR_500885_1,[C:1](/[N:3]=[C:6](/[C:5]1([H:10])[N:2]([O:7][H:9])[C:4]1=[O:8])[H:11])([H:12])([H:13])[H:14]>>[C:1]([n:3]1[c:4](=[O:8])[n:2]([O:7][H:9])[c:5]([H:10])[c:6]1[H:11])([H:12])([H:13])[H:14],33.34158500000001
MR_111711_1,[C:1](/[C:2]([N:3]([H:8])[H:9])=[C:5](\[N:4]([H:10])[H:11])[H:14])([O:6][H:7])([H:12])[H:13]>>[C:1](=[C:2]([N:3]([H:8])[H:9])[C:5]([N:4]([H:10])[H:11])([O:6][H:7])[H:14])([H:12])[H:13],53.97127499999215
MR_119813_0,[C:1]1([H:11])([H:12])/[C:3](=[N:7]/[H:10])[O:6][C:2]([N:4]([H:8])[H:9])=[C:5]1[H:13]>>[C:1]1([H:11])([H:12])[C:3]([N:7][H:10])[C@@:5]1([C:2]([N:4]([H:8])[H:9])=[O:6])[H:13],42.16988250000398
MR_230304_0,[C:1](=[C:6](\[C:4]([C:2]([H:13])([H:14])[H:15])([C:3]([H:16])([H:17])[H:18])[C:5](=[O:8])[H:11])[H:12])(\[O:7][H:9])[H:10]>>[C:1]([C:5](=[O:8])[H:11])([C:6](=[C:4]([C:2]([H:13])([H:14])[H:15])[C:3]([H:16])([H:17])[H:18])[H:12])([O:7][H:9])[H:10],54.57493000000184
MR_126633_0,[C:1]([O:6][C:4](=[C:5]([C:2]([H:13])([H:14])[H:15])[C:3]([H:12])([H:16])[H:17])[O:7][H:8])([H:9])([H:10])[H:11]>>[C:1]([C:5]([C:2]([H:13])([H:14])[H:15])([C:3]([H:12])([H:16])[H:17])[C:4](=[O:6])[O:7][H:8])([H:9])([H:10])[H:11],67.1726200000127
MR_470837_1,[C:1]1([H:9])([H:10])[C:3]([O:6][H:8])=[C:4]([C:2]([H:12])([H:13])[H:14])[C:5]([H:11])=[N:7]1>>[C:1]1([H:9])([H:10])[C:3]2([O:6][H:8])[C:4]([C:2]([H:12])([H:13])[H:14])=[C:5]([H:11])[N:7]12,69.23019250002554
MR_61290_1,[C:1]([C:2]([O:4][N:5]=[C:3]([H:10])[H:11])=[O:6])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:4])[O:6][N:5]=[C:3]([H:10])[H:11])([H:7])([H:8])[H:9],41.17341249998731
MR_231224_2,[C:1]([C:3]([C:2]([O:4][H:7])=[O:5])=[O:6])([H:8])([H:9])[H:10]>>[C:1]([C:2]1([O:4][H:7])[C:3](=[O:6])[O:5]1)([H:8])([H:9])[H:10],69.96185750003306
